US05807886
7-Nitro-3,4-dihydro-2(1H)-naphthaleneone (1.50 g, 7.85 mmol), benzylamine (4.30 ml, 39.3 mmol), acetic acid (8.0 ml), 4 Å molecular sieves (20 ml), THF (15 ml), and MeOH (15 ml) were introduced into a flask and cooled to 0° C. Sodium cyanoborohydride (0.99 g, 15.7 mmol) was then added portionwise over a 5-minute period. The mixture was stirred for 14 hr, filtered through celite, and concentrated to a syrup. The mixture was made basic with 2N NaOH and extracted with ether (3×50 ml). The combined extracts were washed with water, dried over magnesium sulfate, filtered, concentrated and chromatographed over silica gel (3% methanol/methylene chloride) to yield 7-nitro-2-((phenylmethyl)amino)1,2,3,4-tetrahydronaphthalene: (2.10 g, 95%); M.S. (M+H)+ =283.

reactant | 7-Nitro-3,4-dihydro-2(1H)-naphthaleneone | 7.85 mmol, 1.50 g | [N+](=O)([O-])C1=CC=C2CCC(CC2=C1)=O | C10H9NO3
reactant | benzylamine | 39.3 mmol, 4.30 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | acetic acid | 8.0 ml | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 15.7 mmol, 0.99 g | C(#N)[BH3-].[Na+]
solvent | MeOH | 15 ml | CO | CH4O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 7-nitro-2-((phenylmethyl)amino)1,2,3,4-tetrahydronaphthalene | [N+](=O)([O-])C1=CC=C2CCC(CC2=C1)NCC1=CC=CC=C1 | C17H18N2O2
